US08791132B2
A solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), 1H-pyrazole-4-boronic acid (75 mg, 0.580 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-DME (4 mL)-water (2 mL) was purged with nitrogen. Pd(PPh3)4 (16 mg, 0.0147 mmol) was added and the reaction mixture was heated at 90° C. for 45 min. The reaction mixture concentrated under vacuum, residue diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate, concentrated under vacuum to obtain crude which was purified by reverse phase HPLC to yield 5-(2-(1H-pyrazol-4-yl)cyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.38 (s, 1H), 7.0 (m, 2H), 6.4 (m, 2H), 4.7 (m, 1H), 4.4 (m, 1H), 3.78 (m, 1H), 3.42 (m, 1H), 3.11 (m, 4H), 2.6-3.0 (m, 5H), 2.4 (s, 3H), 2.2 (m, 2H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | 1H-pyrazole-4-boronic acid | 0.580 mmol, 75 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0147 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | 5-(2-(1H-pyrazol-4-yl)cyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | N1N=CC(=C1)C1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C21H24N4
